US07626036B2
5-Aminomethyl-3-(4-chloro-3-trifluoromethyl-phenyl)-5-methyl-imidazolidine-2,4-dione
5-Azidomethyl-3-(4-chloro-3-trifluoromethyl-phenyl)-5-methyl-imidazolidine-2,4-dione (500 mg, 1.45 mmoL), Ph3P (380 mg, 1.45 mmoL) in THF (5 mL) and water (1 mL) was heated to reflux for 4 hrs. The solid was filtered through a pad of Celite. The Celite was washed with ethyl acetate. The combined filtrate was concentrated to give a colorless oil, which was used without further purification.

reactant | 5-Azidomethyl-3-(4-chloro-3-trifluoromethyl-phenyl)-5-methyl-imidazolidine-2,4-dione | 500 mg | N(=[N+]=[N-])CC1(C(N(C(N1)=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)=O)C | C12H9ClF3N5O2
reactant | Ph3P | 380 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | 5-Aminomethyl-3-(4-chloro-3-trifluoromethyl-phenyl)-5-methyl-imidazolidine-2,4-dione | NCC1(C(N(C(N1)=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)=O)C | C12H11ClF3N3O2
